US07772244B2
(R)-1-(4-(5,6-Dihydropyridin-1(2H)-yl)piperidin-1-yl)-3-(7-methyl-1H-indazol-5-yl)-1-oxopropan-2-yl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate
To a solution of (R)-3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carbonyloxy)propanoic acid (50 mg, 0.11 mmol), diisopropylethylamine (37 μL, 0.21 mmol), and 1-(piperidin-4-yl)-1,2,3,6-tetrahydropyridine (75.7 mg, 2.0 equiv) in dimethylformamide (0.50 mL) and dichloromethane (0.50 mL) at 0° C. was added PyBOP® (57.6 mg, 0.11 mmol). The reaction was stirred at 0° C. for 4 h. The reaction was concentrated and purified by column chromatography (95:5:1 to 90:10:1 dichloromethane/methanol/triethylamine). The resulting residue was dissolved in 5% methanol/dichloromethane and passed through a basic alumina column to give 35.9 mg (53%) as a white powder. 1H-NMR (CD3OD, 500 MHz) δ −0.35-0.15 (m, 0.7H), 0.60-0.93 (m, 1H), 1.15-2.20 (m, 11H), 2.30-3.25 (m, 11H), 3.75-4.58 (m, 4H), 5.35-5.75 (m, 3H), 7.01-7.14 (m, 1H), 7.18 (m, 1H), 7.28 (m, 1H), 7.36-7.50 (m, 2H), 7.53-7.73 (m, 2H), 7.90-8.01 (m, 1H). Mass spec.: 623.33 (MH)+.

reactant | (R)-3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carbonyloxy)propanoic acid | 0.11 mmol, 50 mg | CC=1C=C(C=C2C=NNC12)C[C@H](C(=O)O)OC(=O)N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C26H26N4O5
reactant | diisopropylethylamine | 0.21 mmol, 37 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(piperidin-4-yl)-1,2,3,6-tetrahydropyridine | 75.7 mg, 2.0 equiv | N1CCC(CC1)N1CCC=CC1 | C10H18N2
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 0.50 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 0.50 mL | ClCCl | CH2Cl2
product | (R)-1-(4-(5,6-Dihydropyridin-1(2H)-yl)piperidin-1-yl)-3-(7-methyl-1H-indazol-5-yl)-1-oxopropan-2-yl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | O=C1NC2=CC=CC=C2C=C1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CC=CCC1)CC=1C=C2C=NNC2=C(C1)C | C36H42N6O4
